US07449475B2
4-(Benzoylamino)-2-chloro-5-[(2S)-oxiran-2-ylmethoxy]phenyl benzoate
To a stirred solution of 4-(benzoylamino)-2-chloro-5-hydroxyphenyl benzoate (103 mg, 0.28 mmol) and [(2S)-2-methyloxiran-2-yl]methyl 3-nitrobenzenesulfonate (73 mg, 0.28 mmol) in DMF (3 mL) cesium carbonate (98 mg, 0.3 mmol) was added. The stirring was continued at ambient temperature over night. The mixture was poured into water and partitioned between water and ethylacetate. The organic phase was washed with water, dried and concentrated in vacuo to give a white solid (117 mg, 98%). The solid was used without further purification.

reactant | 4-(benzoylamino)-2-chloro-5-hydroxyphenyl benzoate | 0.28 mmol, 103 mg | C(C1=CC=CC=C1)(=O)OC1=C(C=C(C(=C1)O)NC(C1=CC=CC=C1)=O)Cl | C20H14ClNO4
reactant | [(2S)-2-methyloxiran-2-yl]methyl 3-nitrobenzenesulfonate | 0.28 mmol, 73 mg | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@]1(OC1)C | C10H11NO6S
reactant | DMF | 0.3 mmol, 3 mL, 98 mg | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(Benzoylamino)-2-chloro-5-[(2S)-oxiran-2-ylmethoxy]phenyl benzoate | 117 mg, 98% | C(C1=CC=CC=C1)(=O)OC1=C(C=C(C(=C1)OC[C@H]1OC1)NC(C1=CC=CC=C1)=O)Cl | C23H18ClNO5
